US08541411B2
2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid (40.0 g, 92 mmol) was suspended in Methanol (1.6 L) in a 3 L rounded-bottom flask. The resulting slurry was heated to 60° C. mixing on a buchii rotary evaporator water bath and tris(hydroxymethyl)aminomethane (3M solution in water) (0.031 L, 92 mmol) was added in four aliquots over 15 minutes followed by the addition of seed crystals as produced by method analogous to Example 86, Batch 2, above (108 mg). This slurry was stirred (flask rotated on buchii rotovap) at 60° C. for 3 hours, then cooled (˜1° C./min) to 20° C. (room temperature), then finally magnetically stirred at 20° C. (room temperature) for 8 hours. The resulting white solid was isolated by vacuum filtration, dried under vacuum at 60° C. for 8 hours to provide 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid-2-amino-2-(hydroxymethyl)-1,3-propanediol (1:1) (47.76 g, 86 mmol, 93% yield) as a white solid. Both proton NMR and LCMS are consistent with the proposed structure. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.61 (d, J=7.83 Hz, 1H) 7.37 (d, J=2.27 Hz, 1H) 7.17-7.33 (m, 2H) 6.33 (d, J=7.83 Hz, 1H) 5.59 (s, 2H) 3.66-3.80 (m, 4H) 2.98-3.15 (m, 4H) 2.50-2.58 (m, 10H) 2.43 (s, 3H); LCMS m/z MH+=434.3.

reactant | 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 92 mmol, 40.0 g | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)O)N2CCOCC2 | C22H22F3N3O3
reactant | water | O | H2O
reactant | tris(hydroxymethyl)aminomethane | 92 mmol, 3M, 0.031 L | C(C(CO)(CO)N)O | C4H11NO3
solvent | Methanol | 1.6 L | CO | CH4O
product | 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid 2-amino-2-(hydroxymethyl)-1,3-propanediol | 86 mmol, 47.76 g, 93% yield | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)O)N2CCOCC2.NC(CO)(CO)CO | InChI=1S/C22H22F3N3O3.C4H11NO3/c1-13-15(4-3-5-18(13)22(23,24)25)12-28-14(2)26-20-17(21(29)30)10-16(11-19(20)28)27-6-8-31-9-7-27;5-4(1-6,2-7)3-8/h3-5,10-11H,6-9,12H2,1-2H3,(H,29,30);6-8H,1-3,5H2
